US09085555B2
D. (3-Aminomethyl-5-chloro-4-fluoro-benzyl)-diethyl-amine
To a mixture of (3-chloro-5-diethylaminomethyl-2-fluoro-benzyl)-carbamic acid tert-butyl ester (115 mg, 0.33 mmol) in MeOH (1 mL) was added a solution of 4N HCl in dioxane (3 mL). The reaction mixture was stirred for 2 h at ambient temperature and the solvent was removed in vacuo to give the title compound. MS (LC/MS): 245.0 [M]+; tR (HPLC conditions c): 2.13 min.

reactant | (3-chloro-5-diethylaminomethyl-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.33 mmol, 115 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN(CC)CC)Cl)F)=O | C17H26ClFN2O2
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (3-Aminomethyl-5-chloro-4-fluoro-benzyl)-diethyl-amine | NCC=1C=C(CN(CC)CC)C=C(C1F)Cl | C12H18ClFN2
